US08207164B2
p) [(2R,5R)-5-(5-Amino-2-fluoro-phenyl)-2,5-dimethyl-2-trifluoromethyl-5,6-dihydro-2H-[1,4]oxazin-3-yl]-carbamic acid tert-butyl ester
A solution of [(2R,5R)-5-(2-fluoro-5-nitro-phenyl)-2,5-dimethyl-2-trifluoromethyl-5,6-dihydro-2H-[1,4]oxazin-3-yl]-carbamic acid tert-butyl ester (0.98 g, 2.25 mmol) in isopropanol-THF 2:1 (24 ml) was hydrogenated over 5% Pd—C for 4 h at 50° C. The catalyst was filtered off over Celite and the filtrate was concentrated to provide the title compound after crystallization from TBME-hexane as beige crystals: TLC (hexane-EtOAc 1:1): Rf=0.42; HPLC RtH5=0.955 min; ESIMS: 406 [(M+H)+]; 1H NMR (360 MHz, CDCl3): δ 6.82 (dd, 1H), 6.52 (m, 2H), 4.30 (dd, 1H), 3.97 (dd, 1H), 3.06 (br s, 2H), 1.58 (s, 3H), 1.48 (s, 3H), 1.46 (s, 9H).

reactant | [(2R,5R)-5-(2-fluoro-5-nitro-phenyl)-2,5-dimethyl-2-trifluoromethyl-5,6-dihydro-2H-[1,4]oxazin-3-yl]-carbamic acid tert-butyl ester | 2.25 mmol, 0.98 g | C(C)(C)(C)OC(NC=1[C@@](OC[C@@](N1)(C)C1=C(C=CC(=C1)[N+](=O)[O-])F)(C(F)(F)F)C)=O | C18H21F4N3O5
solvent | isopropanol THF | 24 ml | C(C)(C)O.C1CCOC1
catalyst | Pd—C | [Pd] | Pd
product | [(2R,5R)-5-(5-Amino-2-fluoro-phenyl)-2,5-dimethyl-2-trifluoromethyl-5,6-dihydro-2H-[1,4]oxazin-3-yl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC=1[C@@](OC[C@@](N1)(C)C1=C(C=CC(=C1)N)F)(C(F)(F)F)C)=O | C18H23F4N3O3
